US07230105B2
4-phenylpiperazine-1-carboxylic acid (5-{1-[3-(acridine-9-yl-amino)-5-hydroxymethylphenylcarbamoyl]-ethylcarbamoyl}-6-methyl-2-methoxypyridine-3-yl)amide
2-ethyl-6-methoxy-5-[(4-phenylpiperazine-1-carbonyl)amino]nicotinic acid(0.5 g, 1.24 mmole) was dissolved in pyridine(30 mL) and thereto DCC(0.26 g, 1.24 nmole), DMAP(0.15 g, 1.24 mmole) and N-[3-(acridine-9-yl-amino)-5-hydroxymethyl-phenyl]-2-aminopropaneamide were added. After stirring the resulting mixture for 24 hours at the room temperature. The resulting product was purified by column chromatography to give the titled compound.

reactant | 2-ethyl-6-methoxy-5-[(4-phenylpiperazine-1-carbonyl)amino]nicotinic acid | 1.24 mmole, 0.5 g | C(C)C1=C(C(=O)O)C=C(C(=N1)OC)NC(=O)N1CCN(CC1)C1=CC=CC=C1 | C20H24N4O4
reactant | DCC | 1.24 nmole, 0.26 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | N-[3-(acridine-9-yl-amino)-5-hydroxymethyl-phenyl]-2-aminopropaneamide | C1=CC=CC2=NC3=CC=CC=C3C(=C12)NC=1C=C(C=C(C1)CO)NC(C(C)N)=O | C23H22N4O2
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 1.24 mmole, 0.15 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-phenylpiperazine-1-carboxylic acid (5-{1-[3-(acridine-9-yl-amino)-5-hydroxymethylphenylcarbamoyl]-ethylcarbamoyl}-6-methyl-2-methoxypyridine-3-yl)amide | yield: 68.2% | C1=CC=CC2=NC3=CC=CC=C3C(=C12)NC=1C=C(C=C(C1)CO)NC(=O)C(C)NC(=O)C=1C=C(C(=NC1C)OC)NC(=O)N1CCN(CC1)C1=CC=CC=C1 | C42H42N8O5
